US08071586B2
b) (S)-1-Benzyl-5-methyl-piperidin-3-one
To a suspension of sodium hydride (55% dispersion in mineral oil, 6.4 g, 14 mmol) in toluene (90 ml) was added (S)-3-(benzyl-ethoxycarbonylmethyl-amino)-butyric acid ethyl ester (20.3 g, 0.06 mol) in toluene (10 ml), followed by ethanol (1 ml). A vigorous reaction ensued, after 15 minutes the reaction was diluted with ethyl acetate, washed with 10% aq. citric acid solution, dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (ethyl acetate/heptane 1:9) affording a complex mixture of diastereomers (7.2 g, 42%). A portion of this material (3.5 g, 13 mmol) was dissolved in 25% aq. hydrochloric acid solution (20 ml) and heated in a loosely closed tube at 120° C. for 36 h. The solvent was evaporated, the residue redissolved in dichloromethane, washed with sat. aq. sodium hydrogencarbonate solution, dried (Na2SO4) and concentrated. Purification by flash column chromatography (ethyl acetate/heptane 1:4) afforded the titled product as a crystalline solid (1.1 g, 43%). MS (ISP)=204.3 (M+H)+.

reactant | sodium hydride | 14 mmol, 6.4 g | [H-].[Na+]
reactant | (S)-3-(benzyl-ethoxycarbonylmethyl-amino)-butyric acid ethyl ester | 0.06 mol, 20.3 g | C(C)OC(C[C@H](C)N(CC(=O)OCC)CC1=CC=CC=C1)=O | C17H25NO4
reactant | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | (S)-1-Benzyl-5-methyl-piperidin-3-one | 1.1 g, 43% | C(C1=CC=CC=C1)N1CC(C[C@@H](C1)C)=O | C13H17NO
